Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
One week of acute onset vertigo, nausea and gait instability and
found to have a right cerebellar infarct.
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ (left-handed) with no significant PMH who presents with one 
week of acute onset vertigo, nausea and gait instability and 
found to have a right cerebellar infarct.

On ___ around midnight the patient had acute onset room 
spinning vertigo and nausea while watching TV. He also felt very 
unsteady when he walked and needed to hold on to things. He 
denies any visual changes, headaches, difficulty with speech. He 
did not want to go to the ED so he went to sleep and his 
symptoms had improved but not resolved by the next morning. Then 
on ___ at 3pm, the symptoms acutely worsened again prompting 
him to go to the ED (___) where they did a head CT and 
prescribed him meclizine and told him to follow-up with his PCP. 
He saw his PCP ___ ___ who ordered an MRI. He continued to have 
ongoing symptoms that fluctuated in severity. This morning he 
had his MRI and was called in by his PCP for findings of 
subacute stroke.

Of note, he reports that since ___ he has had progressive 
symptoms of his feet feeling "soft" and leg "heaviness". He also 
 reports feeling unsteady in his gait. He denies any sensory  
changes or weakness. He saw his PCP multiple times and was
referred to a neurologist, whom he is scheduled to have an 
appointment with in ___.
 
Past Medical History:
Hives
Urinary frequency
Congenital right-sided weakness and right leg shorter, unclear 
if
any brain abnormalities at birth
 
Social History:
___
Family History:
no significant family history reported  
 
Physical Exam:
Physical exam on admission:
Vitals: T: 96.8  BP: 128/68 HR: 74 SR RR: 18 SaO2: 97%RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: Pitting lower extremity edema to knee.
Skin: No rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Language is fluent with intact repetition 
and
comprehension. Normal prosody. States hammock is swing on stroke
card. Able to name both high and low frequency objects.  Able to
read without difficulty. No dysarthria. Able to follow both
midline and appendicular commands. Able to follow cross-body and
complex commands. Serial 7s intact.

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor noted.

  [Delt][Bic][Tri][ECR][FEx] [IP][Quad][Ham][TA][Gas]
L    5    5    5    5    5    5   5    5    5   5    
R    5    5    5    5    5    5   5    5    5   5    

-Sensory: No deficits to light touch, pinprick or proprioception
throughout. Romberg absent. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     1
R   2     2      2      2     1 

Plantar response was flexor on left, extensor on right

-Coordination: No intention tremor. Abnormal cadence on
finger-tap bilaterally. Ataxic with mirroring bilaterally.

-Gait: Good initiation. Narrow-based, high heel on right
(chronic). Some unsteadiness with tandem.

No change in exam at discharge.
 
Pertinent Results:
___ 04:12PM BLOOD WBC-5.5 RBC-4.53* Hgb-14.0 Hct-42.4 
MCV-94 MCH-30.9 MCHC-33.0 RDW-13.5 RDWSD-46.0 Plt ___
___ 04:12PM BLOOD Glucose-116* UreaN-19 Creat-0.8 Na-138 
K-4.3 Cl-107 HCO3-21* AnGap-10
___ 04:12PM BLOOD %HbA1c-5.6 eAG-114
___ 07:40AM BLOOD VitB12-413
___ 04:12PM BLOOD Triglyc-61 HDL-60 CHOL/HD-3.3 LDLcalc-125
___ 04:12PM BLOOD TSH-1.3
 
Brief Hospital Course:
Mr. ___ presented with intermittnet vertigo, 
nausea and vomiting and was found to have subacute right 
cerebellar infarct. 

#Right cerebellar infarct
Patient presented with symptoms of intermittent episodes of 
vertigo, nausea, vomiting, along with urinary retention, and 
gait instability. Work up included MRI which identified subacute 
right cerebellar infarct as well as ventriculomegaly and atrophy 
thought to be chronic in the setting of history of cerebral 
palsy. CTA showed right ___ stenosis thought to be chronic. MRI 
C spine showed degenerative disease. Other evaluations included 
TTE for evaluation of thromboembolic source which was negative 
for vegetation, ECG and telemetry which showed no A. fib. 
Ziopatch was prescribed for long term monitoring. Stroke risk 
factor labs with Hgb A1C% 5.6, LDL 125, TSH 1.3, tox screen 
negative. Etiology of stroke thought to be atherosclerosis but 
cardioembolic process still being ruled out with long-term 
cardiac monitoring. He was started on aspirin and plavix which 
should continue for 30 days and then transition to aspirin 81 mg 
only. Atorvastatin 40 mg daily was started for LDL 125. Of note, 
neurosurgery was also consulted for possibility of 
ventriculomegaly due to aqueductal stenosis (although final MRI 
said this was not presented). They recommended neurosurgery 
follow-up only if gait instability persists without other 
etiology discovered. On discharge he remained with right 
dysmetria on FnF and HkS. Polyneuropathy labs sent at discharge 
and he can be evaluated for need of EMG/NCS as outpatient.

Transitional issues:
[] Neurosurgery recommends follow-up if symptoms do not resolve 
for evaluation 
[] Follow-up with primary care doctor for evaluation of stroke 
risk factors and prevention; referral to ___ as outpatient if his 
symptoms continue to persist
[] Plan to discontinue Plavix after 30 days and continue aspirin 
ongoing
[] Consider work-up of NPH with outpatient neurologist
[] Follow-up Ziopatch for paroxysmal A. fib
[] Follow-up with neuropathy for further work-up for peripheral 
neuropathy vs. NPH- Consider outpatient EMG/NCS. Follow-up B12, 
trep ab, SPEP, CRP sent for partial neuropathy w/u inpatient.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Tamsulosin 0.4 mg PO QHS 
2. HydrOXYzine 50 mg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin ___ Chewable Aspirin] 81 mg 1 tablet(s) by mouth 
once a day Disp #*30 Tablet Refills:*3 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
3.  Clopidogrel 75 mg PO DAILY 
Take this medication with Aspirin for 30 days, that only take 
aspirin  
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
4.  HydrOXYzine 50 mg PO DAILY  
5.  Multivitamins 1 TAB PO DAILY  
6.  Tamsulosin 0.4 mg PO QHS  
7.Outpatient Physical Therapy
right cerebellar infarct.
ICD 10 G46.4
8.Outpatient Occupational Therapy
Right Cerebellar infarct

ICD 10 Code ___.4

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ACUTE ISCHEMIC STROKE of the  right cerebellar hemisphere.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,  
 

You were hospitalized due to symptoms of intermittent episodes 
of vertigo, nausea, vomiting, along with urinary retention, and 
gait instability. resulting from an ISCHEMIC STROKE of the right 
cerebellar hemisphere, a condition where a blood vessel 
providing oxygen and nutrients to the brain is blocked by a 
clot. The brain is the part of your body that controls and 
directs all the other parts of your body, so damage to the brain 
from being deprived of its blood supply can result in a variety 
of symptoms.  

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
 
- your age
- high "LDL" or fats in your blood
- plaques on your arteries  

We are changing your medications as follows:  
- Start aspirin 81 mg daily for the rest of your life
- Start Plavix 75 mg daily for 30 days and then STOP (and 
continue only on aspirin 81 mg daily)
- Start atorvastatin 40 mg daily 
  
Please take your other medications as prescribed.  

Please followup with Neurology and your primary care physician.  

 
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

Sincerely,  
 
Your ___ Neurology Team  
 
Followup Instructions:
___